Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Chlorpromazine / Latex
 
Attending: ___.
 
Chief Complaint:
Abdominal pain and vomiting
 
Major Surgical or Invasive Procedure:
Left sided pleurex catheter placement
 
History of Present Illness:
___ yo M w/ h/o stage IV gallbladder ca diagnosed in ___ most  
recently treated with FOLFIRI (cycle 4 on ___ who presented 
 
to ED with one day hx of fever to 103 and lethargy, vomiting of 
several days duration. Also reported ___ilious 
emesis and abd pain. Poor ___ intake. Also with back pain.  
.  
In the ED, VS 103 135 80/46 25 97% 2L. Tylenol given by EMS T 99 
upon arrival. EKG: NSR. Labs notable for Lactate:2.5, AP: 425 
Tbili: 2.7 AST: 61 wbc, 10.7 hct 31.4. INR: 1.4. Given levaquin, 
4 L IVF, zofran. BCx and UCx were sent. Ill appearing in ED. CXR 
Large left pleural effusion. Abx given prior to urine. Abd CT 
new right urinary obstruction, likely metastatic to bowel with 
extrinsic. Has diarrhea, no obstruction?. Foley put out a lot of 
urine. VS now ___ 95 on RA. Back pain. Looks improved. 2 
PIV, port. Got ___ opinion at ___ after receiving 
hospice suggestion from primary onc/Dr. ___ had similar 
recs. Poor rectal tone and fecal urgency on ED visit. Refused 
central line placement.  
.  
Of note had FICU stay ___ for GNR sepsis klebsiella (R to 
ampicillin)  
thought to be biliary obstruction s/p ERCP. Also admitted 
___ for hep gtt bridge for diagnostic thoracentesis by 
IP which was positive for adenoca.  
.  
Upon arrival to ICU vitals: 98.1 ___ 15 99%/nasal cannula. 
Pt placed on NICOM monitoring. Given 1L NS bolus. Additional 
history reveals hx of chronic (intermittent) vomiting worsened 
in the last 2 weeks to daily bilious vomiting with occasional 
coffee ground ememsis and in the last few days to green bilious 
vomiting. He endorses 2 BMs daily with tenesmus. No melena or 
BRBPR. Has been taking 3 cans ensure w sips of water. Sx over 
the last 2 weeks also include headache, abd pain in lower and L 
quadrants and new fecal incontinence. +Urinary hesitancy. Pt 
feels better than earlier, denies nausea, vomiting, 
abd/back/chest pain or dizziness. Denies pelvic 
numbness/tingling, urinary incontinence, ___ 
weakness/numbness/tingling, or visual changes.  

 
Past Medical History:
ONCOLOGIC HISTORY  
Gallbladder Ca - diagnosed in ___ on cholecystectomy w path  
demonstrating adenocarcinoma poorly differentiated, w liver  
invasion, extracapsular extension, and positive LN, s/p ERCP  
___ with stenting of the CBD and CHD, s/p C6 gem/cis, XRT L  
rib lesion, s/p FLOX, s/p C3 FOLFIRI (last dose ___  
.  
MEDICAL HISTORY  
R DVT  
Hypercholesterolemia  
Bilateral knee replacements in ___  
CCY and gallbladder fosa dissection ___.  
.  
PAST SURGICAL HISTORY: Bilateral knee replacements in ___,  
cholecystectomy as noted above, and skin cancer removals in the  

back in ___.  

 
Social History:
___
Family History:
His mother who died of Alzheimer's, both his parents have lived 
long to the ___ and died of Alzheimer's.  

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals: T:98.1 BP:96/67 P:100 R: 22 O2:100/2L nasal cannula  
General: Alert, oriented, sick-appearing cachectic male lying in 
bed, wife at bedside  
___: Sclera anicteric, oral mucosa pink/dry, oropharynx clear  

Neck: supple, JVP not elevated, no LAD  
Lungs: decreased breathsounds at b/l bases, rales extending 
mid-lung fields L>R, no wheezes or rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-distended but firm, nontender to palpation, 
hypoactive bowel sounds, No CVA tenderness  
RECTAL: poor rectal tone
GU: +foley  
Ext: warm, well perfused, skin dry w poor turgor, 2+ pulses, R > 
L calf size, no edema/cyanosis/clubbing  
Neuro: AOx3, CN II-XII intact, extremity strength equal/intact, 
reflexes intact, downgoing plantar reflexes  

DISCHARGE PHYSICAL EXAM:
VS: Tm +Tc 97.5, BP 106/80 (106-125/68-80), 87 (87-105), 20 
(___), 94%RA (94-96%RA)
Gen: ill appearing male, appearing older than stated age, NAD, 
NGT in place
CV: RRR, no murmurs, rubs, gallops
Lungs: dullness and reduced breath sounds over left base, 
pleurex catheter in place, clean and dressed. 
Abd: soft, ND, NT, hard mass palpated above umbilicus
Ext: warm and well pefused +DP pulses. ___ symmetrical edema.
 
Pertinent Results:
Admission labs (___):
- WBC-10.7# RBC-3.11* Hgb-10.9* Hct-31.4* MCV-101* MCH-35.0* 
MCHC-34.8 RDW-15.5 Plt ___ Neuts-94* Bands-4 Lymphs-0 
Monos-1* Eos-0 Baso-0 ___ Metas-1* Myelos-0
-___ PTT-28.9 ___
-___
-Glucose-96 UreaN-33* Creat-0.9 Na-134 K-3.9 Cl-94* HCO3-30 
AnGap-14
-ALT-26 AST-61* AlkPhos-425* TotBili-2.7*
-Albumin-2.9* Calcium-6.7* Phos-2.3* Mg-1.8
-Lactate-2.5*
-ALT-24 AST-35 AlkPhos-316* TotBili-2.0*
.
Discharge Labs
As patient was going home on hospice, we declined to do labs for 
the 2 days prior to dispo.
.
MICRO:
-ENTEROBACTER CLOACAE.    FINAL SENSITIVITIES. This organism may 
develop resistance to third generation cephalosporins during 
prolonged therapy. Therefore, isolates that are initially 
susceptible may become resistant within three to four days after 
initiation of therapy.  For serious infections, repeat culture 
and sensitivity testing may therefore be warranted if third 
generation cephalosporins were used. Piperacillin/Tazobactam 
sensitivity testing confirmed by ___. 
GRAM NEGATIVE ROD #2. 
                              SENSITIVITIES: MIC expressed in 
MCG/ML
____________________________________
                             ENTEROBACTER CLOACAE
                             |   
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

   Anaerobic Bottle Gram Stain (Final ___: 
      GRAM NEGATIVE ROD(S). 
      Reported to and read back by ___ ON ___ @ 
9 ___. 
.
-CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final ___: 
NEGATIVE
.
CTA Torso ___: 1. New right-sided notable renal pelvic 
fullness with hydroureter extending to the pelvis. Area of high 
attenuation at transition point, is concerning for obstruction 
possibly due to metastases, although noncontrast studies are not 
available to evaluate for possibility of a previously 
unidentified ureteral calculi (less likely). Could be further 
evaluated with dedicated CTU study. 
2. Concentric thickening of esophagus may reflect esophagitis, 
possibly 
infectious given likely immunosupressed state or possibly 
secondary to reflux. Could be further evaluated with esophagram. 

3. Stomach wall thickening with ulceration noted in greater 
curvature, may be malignant in nature. Consider endoscopy, if 
indicated. 
4. Increased dilatation of the duodenum proximal to the SMA. 
Given dramatic weight loss in the last year, the patient is at 
increase risk of SMA syndrome or a functional obstruction. Could 
be further evaluated with UGI study. 
5. New 1cm hypoattenuation in right hepatic lobe concerning for 
malignancy. 
6. Unchanged soft tissue density surrounding and within common 
bile extent 
suggestive of occlusion. 
7. Increased size of left pleural effusion with worsening lobar 
collapse.
.
MRI lumbar spine ___
Widespread metastatic infiltrative bone disease involving the 
lumbar spine, sacrum, and visualized lower T11 and 12 vertebral 
bodies without
evidence of thecal compression or neural compromise. Metastasis 
at the L5
vertebral body is increased, almost involving 80% of the L5 
body.
. 
Mild anterior wedge compression of the L1 vertebral body.

CXR ___: IMPRESSION: 
1. NG tube ending at the GE junction with the side port in the 
mid-to-distal esophagus. Recommend advancing the NG tube by 
between 10-15 cm. (After this CXR, NGT was advanced 15cm) 
2. Moderate right pleural effusion is slightly decreased. Small 
left pleural effusion is unchanged.    
3. Unchanged minimal bibasilar atelectasis. 

EGD ___: Impression: Esophagitis at the GE junction
Gastritis with edema and thickened gastric folds suggesting 
extrinsic compression but cannot exclude tumor infiltration 
(biopsy)
Duodenitis of the bulb and ___ part of the duodenum
Deformity due to extrinsic compression of the duodenal bulb and 
second part of the duodenum
Otherwise normal EGD to second part of the duodenum 
Recommendations: The findings account for the symptoms
Await pathology results
Extrinsic compression at the duodenum is not amenable to 
duodenal stenting
Further management per inpatient team 

 
Brief Hospital Course:
___ yo M with Stage IV Gallbladder CA diagnosed in ___ most 
recently treated with FOLFIRI (cycle 4 on ___ who presented 
to ED with fever to 103, weakness, and hypotension
.
# Hypotension: On admission to the FICU, patient was hypotensive 
to 91/60 and was on his 5th liter of IVNS. He was treated with 
IV fluid boluses and pressors were not requried. His blood 
pressure normalized within the first 6 hours of his ICU stay. 
Hypotension is attributed to hypovolemia from vomiting and poor 
oral intake in addition to gram negative sepsis, and resolved 
prior to transfer to the oncology medicine floor.
.
# Fever: Blood cultures drawin in the ED on arrival rapidly 
returned with gram negative rods in one of two bottles. Patient 
was treated empirically with meropenem and vancomycin for 
presumed intrabdominal source of infection related to bacterial 
translocation from small bowel obsruction. Other sources 
considered were pneumonia, urinary given hydronephrosis on 
imaging, biliary with hx of biliary sepsis in ___ and 
obstruction of biliary drain.  His BCx grew out enterobacter 
that was cipro sensitive.  Patient started on cipro for a 14 day 
total course.  He went home with IV ABx to complete this course 
per request of his wife.  Therefore, he went home on ___ with a 
bridge to hospice care. 
.
# Incomplete small bowel obstruction. CT abdomen on arrival was 
concerning for SMA syndrome vs obstruction related to metastatic 
disease vs functional obstruction. A nasogastric tube was placed 
with large volume of bileous fluid returned and improvement in 
symptoms. General surgery was consulted to place a venting 
gastric tube. He was identified as high risk for surgical 
intervention given comorbid metastatic gall bladder cancer and 
the location of the transition point close to the stomach 
limiting surgical approach. Gastroenterology was consulted to 
place a duodenal stent however SMA syndrome is an absolute 
contrindication to duodenal stent placement. The NGT was clamped 
to monitor progoression of symptoms and the patient shortly 
developed nausea and abdominal pain and NGT was returned to 
suction.  He was seen by GI after he was transferred to the 
oncology medicine floor, and an EGD was done on ___ which 
showed he was not a duodenal stent candidate.  Biopsies were 
taken that showed gastric mucosa with inflammation.  He was sent 
home on hospice with an NGT, with a suction device and ___ 
bridge to hospice for management. Because of NGT, patient is 
unable to take pills, so his medications were transitioned to 
liquid or dissolving at dispo.
.
# Transaminitis: LFTs and t.bili were mildly elevated on 
admission and fluctuated throughout ICU course. Prior CT 
revealed obstructed metallic stent. He did not endorse RUQ pain 
to suggest cholangiitis. Elevated LFTs are attributed to 
impaired drainage from biliary stent and progression of gall 
bladder cancer.  Once it was determined that patient would go 
home on hospice, we stopped taking his labs, so it is unclear 
how this had progressed on the day of dispo.
.
# Back pain: Patient complained of worsening lower back pain and 
new fecal incontinence and urinary hesitancy concerning for 
spinal cord compression particularly in light of known 
metastatic involvment of lumbar spine. He was taken for MRI of 
lumbar spine which revealed progression of metastatic disease; 
however no spinal cord compression or evidence of cauda equina 
syndrome.  This was monitored throughout his hospitalization and 
was stable throughout. 
.  
# Left lobe collapse and effusion: On admission, CXR was notible 
for left > right pleural effusions which are known to be 
metastatic and worsened since recent thoracentesis ___. 
Interventional pulmonology placed a pleurex pleurex catheter at 
the bedside which promptly drained 1500 cc fluid. Patient 
reported improvment in dyspnea following pleurex catheter 
placement. On discharge, he will need visiting nurse/hospice to 
continue to drain the catheter weekly.
.
# Right renal hydronephrosis: Admission CT abdomen showed right 
hydronephrosis without stone related to ureter compression from 
mass. Creatinine was at baseline. UCx negative.  This was 
monitored throughout this admission but remained stable and did 
not cause any issues.
.
# DVT: Diagnosed ___ with right common femoral, superficial 
femoral, and profunda femoral veins, with patency of the 
popliteal and tibial veins. Patient was placed on heparin drip 
in anticipation of pulmonary and possible gastrointestinal 
proceedures. Lovenox was resumed following completion of 
proceedures.  We discussed stopping the lovenox with the pt and 
family at ___, as he was going home on hospice and regular 
injections would not contribute to his comfort.  The family had 
3 months worth of lovenox at home and decided that they would 
make a decision when they got home if they would continue it or 
not.
.
# Gall bladder cancer: Stage IV with mets to peritoneum and 
bone. Diagnosed in ___ most recently treated with FOLFIRI 
(cycle 4 on ___. Given extensive disease, he had been 
recently encouraged by primary oncologist Dr, ___ to 
transition to hospice. He was reluctant to do so and got ___ 
opinion at ___ who had similar recommendations regarding 
hospice care. Palliative care was consulted in this hospital 
stay and he initially refused to meet with them. However after 
further discussions, he and his wife decided that he should go 
home with a ___ bridge to hospice.  
.
# Elevated INR: Related to poor nutrition and hepatic synthetic 
dysfunction.
.  
# Anemia:  related to chronic disease, HCT was stable throughout 
hospital stay. 
.
# Stage II superficial areas of breakdown on buttocks: per wound 
RN  we continued  supportive care
.  
# Code: DNR/DNI

 
Medications on Admission:
BACLOFEN - 10 mg Tablet - 1 Tablet(s) by mouth every 4 hours ;  
may gradually decrease frequency if hiccups resolve or if there  

is bothersome dizziness/drowsiness  
LORAZEPAM - 0.5 mg Tablet - One - Two Tablet(s) by mouth Every  
___ hours as needed for nausea  
METOCLOPRAMIDE - 10 mg Tablet - One Tablet(s) by mouth Three  
times per day.  
OMEPRAZOLE - 40 mg Capsule, Delayed Release(E.C.) - One  
Capsule(s) by mouth Daily  
ONDANSETRON - 4 mg Tablet, Rapid Dissolve - One Tablet(s) by  
mouth Three times per day as needed for nausea  
Medications - OTC  
ASPIRIN - (Prescribed by Other Provider) - 81 mg Tablet,  
Chewable - 1 Tablet(s) by mouth once a day  

 
Discharge Medications:
1. Adjustable Table
Please dispense 1 adjustable bedside table 
2. Bedside Commode
Please dispense 1 bedside commode.
3. NG Tube
1 16" ___ NG tube to intermittent suction with continuous 
application. 

4. ciprofloxacin 400 mg/40 mL Solution Sig: One (1) bag 
Intravenous every twelve (12) hours for 5 days: 400mg every 12 
hours.

Last day ___. .
Disp:*10 bags* Refills:*0*
5. intavenous fluids
Please give 2L of normal saline every other day over 2 hours.
6. wheelchair
Please dispense 1 wheelchair for patient to use at home.
7. lansoprazole 30 mg Tablet,Rapid Dissolve, ___ Sig: One (1) 
Tablet,Rapid Dissolve, ___ ___ (2 times a day).
Disp:*60 Tablet,Rapid Dissolve, ___ Refills:*0*
8. sucralfate 1 gram Tablet Sig: One (1) Tablet ___ QID (4 times 
a day): Please give in liquid form. Please hold suction while 
administering. 
.
Disp:*120 Tablet(s)* Refills:*0*
9. acetaminophen 500 mg/5 mL Liquid Sig: One (1)  ___ every six 
(6) hours as needed for fever or pain: DO NOT EXCEED 2GRAMS IN 
24 HOURS.
Disp:*6000 mL* Refills:*0*
10. morphine concentrate 100 mg/5 mL (20 mg/mL) Solution Sig: 
0.5 mL ___ Q3H as needed for pain.
Disp:*240 mL* Refills:*0*
11. Lorazepam Intensol 2 mg/mL Concentrate Sig: 0.5 mg ___ every 
four (4) hours as needed for nausea or anxiety.
Disp:*180 mL* Refills:*0*
12. ZOFRAN ODT 8 mg Tablet, Rapid Dissolve Sig: One (1) Tablet, 
Rapid Dissolve ___ every eight (8) hours as needed for nausea.
Disp:*90 Tablet, Rapid Dissolve(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___:
Primary: Enterobacter bacteremia
superior mesenteric artery syndrome
plueral effusion
.
Secondary: gall bladder cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,
It has been a pleasure taking care of you here at ___ 
___. You were admitted to the hospital with 
fevers and feeling poorly. You were found to have bacteria in 
your blood stream, so you were started on antibiotics. You had a 
catheter placed to drain a pleural effusion or fluid around the 
lung. You also had trouble with nausea, and a nasogastric or NG 
tube was placed to help make you feel better.
.
You are going home on IV antibiotics. Visiting nurses ___ come 
to your home to assist you with administration of antibiotics 
and fluids. They will also assit you with setting up the NG 
tube.  After completion of antibiotics the visiting nurse 
service will transition to hospice.
.
We made the following changes to you medications:
1) We STARTED you on CIPROFLOXACIN IV 400mg every 12 hours, to 
finish on ___.
2) We STARTED you on 2L NORMAL SALINE via IV every other day.
3) We STARTED you on LANSOPRAZOLE 30mg twice a day under your 
tongue.
4) We STARTED you on SUCRALFATE LIQUID 1gm four times a day as 
needed for GERD symptoms.  Hold NG tube suction while giving 
this.
5) We STARTED you on TYLENOL LIQUID 5mL every 6 hours as needed 
for pain or fever.  DO NOT EXCEED 2GRAMS of this medication in 
24 hours.
6) We STARTED you on MORPHINE LIQUID 0.5mL every 3 hours as 
needed for pain.
7) We STARTED you on ATIVAN LIQUID 0.25mL (0.5mg) every 4 hours 
as needed for nausea or anxiety.
8) We STARTED you on ZOFRAN 8mg every 8 hours under your tongue 
as needed for nausea.
9) We STOPPED your ASPIRIN
10) We STOPPED your OMEPRAZOLE
11) We STOPPED your METOCLOPRAMIDE
12) We STOPPED your BACLOFEN
13) We STOPPED your LOVENOX.

If you experience any of the below listed Danger Signs, please 
inform your hospice team or call your doctor.

It was a pleasure taking care of you on this hospitalization. 
 
Followup Instructions:
___